US06586617B1
Sodium hydroxide (97%, 1.20 g (29.1 mmol)) was dissolved in a mixed solvent of water (4.0 ml) and methanol (20.0 ml). To this, 2-amino-5-thiocyanobenzonitrile (5.03 g (28.7 mmol) was added with stirring. To the resulting mixture, after 30 minutes' stirring under cooling with ice, sodium borohydride (90%, 0.60 g (14.3 mmol)) was added and further stirred for 30 minutes under cooling with ice. Then, dimethyl sulfate (95%, 3.0 ml (30.0 mmol)) was added dropwise. The resulting mixture was further stirred under cooling with ice for 30 minutes and at room temperature for 30 minutes, and then concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with diethyl ether. The extract was washed twice with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give 4.73 g (100%) of 2-amino-5-methylthiobenzonitrile as yellow crystals.

reactant | Sodium hydroxide | 29.1 mmol, 1.20 g | [OH-].[Na+]
reactant | 2-amino-5-thiocyanobenzonitrile | NC1=C(C#N)C=C(C=C1)SC#N | C8H5N3S
reactant | sodium borohydride | 14.3 mmol, 0.60 g | [BH4-].[Na+]
reactant | dimethyl sulfate | 30.0 mmol, 3.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 4.0 ml | O | H2O
solvent | methanol | 20.0 ml | CO | CH4O
product | 2-amino-5-methylthiobenzonitrile | 4.73 g, 100% | NC1=C(C#N)C=C(C=C1)SC | C8H8N2S
